US03935261
A mixture of 6-(2-tetrahydropyranyloxy)hexanal (23.2 g., 0.116 mole) and 1-morphdinocyclopentene (25.5 g., 0.16 mole) in benzene (30 ml.) was heated under reflux for 12 hours under nitrogen, and the water liberated was continuously removed with a Dean and Stark head. Benzene (12 ml.) and then, dropwise, 18% hydrochloric acid (28 ml.) were added and the mixture was stirred for 2 hours. The organic layer was separated and evaporated. Concentrated hydrochloric acid (84 ml.) and butanol (350 ml.) were added to the residue. The mixture was heated at 100°C. for 1 hour, and then the solution was concentrated to give an oil. Diethyl ether was added, and the ether solution was washed with aqueous sodium bicarbonate and then water, and dried over sodium sulphate. The solvent was evaporated and the residue was distilled under reduced pressure to give 2-(6-hydroxyhexyl)-2-cyclopenten-1-one (10.7 g., 50%), b.p. 105°-160°C./15 mm.Hg, nD25 1.491.

reactant | 6-(2-tetrahydropyranyloxy)hexanal | 0.116 mole, 23.2 g | O1C(CCCC1)OCCCCCC=O | C11H20O3
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(6-hydroxyhexyl)-2-cyclopenten-1-one | 10.7 g, 50% | OCCCCCCC=1C(CCC1)=O | C11H18O2
